US09035053B2
A suspension of (E)-tert-butyl 4-((hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate (A-4) (1662 g, 4.97 mol) in i-PrOAc (16.6 L) is stirred at 20° C. in a reactor. N-chlorosuccinimide (730 g, 5.47 mol) is added maintaining about 20° C. The suspension is stirred at about 20° C. to complete the reaction. The suspension is diluted with water (8.3 L) and stirred to dissolve the solid. The phases are separated and the organic phase is washed with water (8.3 L). The organic phase is concentrated then diluted with i-PrOAc (831 mL). Heptane (13.3 L; 8 V) is slowly added to induce crystallization. The thick suspension is then stirred for 1 h. The solid is collected by filtration; the filter-cake is washed with heptane (2×1.6 L; 2×1 V) and dried to afford (Z)-tert-butyl 4-(chloro(hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate (A-4-i) (1628 g; 89%, 98.0 area % purity by HPLC) as a white powder.

reactant | (E)-tert-butyl 4-((hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate | 4.97 mol, 1662 g | O\N=C\C1=CC=C(CN(C(OC(C)(C)C)=O)C2CCOCC2)C=C1 | C18H26N2O4
reactant | N-chlorosuccinimide | 5.47 mol, 730 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | i-PrOAc | 16.6 L | C(C)(C)OC(=O)C | C5H10O2
solvent | water | 8.3 L | O | H2O
product | (Z)-tert-butyl 4-(chloro(hydroxyimino)methyl)benzyl(tetrahydro-2H-pyran-4-yl)carbamate | 1628 g, 89% | Cl\C(\C1=CC=C(CN(C(OC(C)(C)C)=O)C2CCOCC2)C=C1)=N/O | C18H25ClN2O4
